US08106043B2
7-Nitro-4-(2-(pyrrolidin-1-yl)ethyl)-2H-benzo[b][1,4]oxazin-3(4H)-one:
A suspension of 7-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one (0.5 g, 2.575 mmol), 1-(2-chloroethyl)pyrrolidine hydrochloride (0.43 g, 2.575 mmol) and K2CO3 (1.06 g, 7.726 mmol) in dry DMF (5 mL) was stirred at 100° C. overnight (18 hours). The reaction was brought to room temperature, diluted with water (100 mL), and the product was extracted into ethyl acetate (2×25 mL). The combined ethyl acetate layers were washed with brine (20 mL) and dried (Na2SO4). The solvent was evaporated, and the crude material was purified by column chromatography (3:97 (2M NH3 in MeOH):CH2Cl2) to obtain the title compound (0.49 g, 65%) as a solid. 1H NMR (DMSO-d6) δ 1.62-1.70 (m, 4H), 2.46-2.54 (m, 4H, merged with DMSO-d6 resonance), 2.60 (t, 2H, J=6.9 Hz), 4.08 (t, 2H, J=6.9 Hz), 4.80 (s, 2H), 7.44 (d, 1H, J=9.3 Hz), 7.80 (d, 1H, J=2.4 Hz), 7.96 (dd, 1H, J=2.7, 9.0 Hz); ESI-MS (m/z, %): 292 (MH+, 100).

reactant | 7-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one | 2.575 mmol, 0.5 g | [N+](=O)([O-])C=1C=CC2=C(OCC(N2)=O)C1 | C8H6N2O4
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 2.575 mmol, 0.43 g | Cl.ClCCN1CCCC1
reactant | K2CO3 | 7.726 mmol, 1.06 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 7-Nitro-4-(2-(pyrrolidin-1-yl)ethyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | 0.49 g, 65% | [N+](=O)([O-])C=1C=CC2=C(OCC(N2CCN2CCCC2)=O)C1 | C14H17N3O4
